US05973189
5 g (21.8 mmol) of N-carboxymethylene-4-chloro-anthranilic acid are suspended in 50 ml of isopropanol, and 222 mg (2.3 mmol) of sulfuric acid are added. The mixture is heated under reflux for 8.25 hours. It is then cooled to room temperature and the product which has precipitated out is washed with petroleum ether and dried. 4.6 g (16.9 mmol; 78%) of N-carboisopropoxymethylene-4-chloro-anthranilic acid are obtained.

reactant | N-carboxymethylene-4-chloro-anthranilic acid | 21.8 mmol, 5 g | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
reactant | sulfuric acid | 2.3 mmol, 222 mg | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-carboisopropoxymethylene-4-chloro-anthranilic acid | 16.9 mmol, 4.6 g, 78% | C(=O)(OC(C)C)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C12H12ClNO4
